US04402961
The operation is as in Example 1, starting from 14 g of ethyl quinoline-2-carboxylate, 17.4 g of ethyl 3-[3-(N-benzoyl)piperidyl]propionate and 36 ml of a 20% suspension of potassium hydride in oil. 7.4 g of 1-(2-quinolyl)-3-(3-piperidyl)-1-propanone are obtained, which is converted into its monohydrochloride. This monohydrochloride is recrystallized from ethanol. Its melting point, after recrystallization from ethanol, is 198° C.

reactant | ethyl quinoline-2-carboxylate | 14 g | N1=C(C=CC2=CC=CC=C12)C(=O)OCC | C12H11NO2
reactant | potassium hydride | [H-].[K+]
product | 1-(2-quinolyl)-3-(3-piperidyl)-1-propanone | 7.4 g | N1=C(C=CC2=CC=CC=C12)C(CCC1CNCCC1)=O | C17H20N2O
